US05043006
10.7 g of 4-(2,3-dichlorophenylcarbamoyl)phenylacetamide was dispersed in 100 ml of acetic acid, and 17.5 ml of sulfuric acid was added. Then, a solution obtained by dissolving 3.2 g of sodium nitrite in 17.5 ml of water, was dropwise added to bring the reaction temperature to a level of 20° C. ±5° C. Thereafter, the mixture was stirred at room temperature for two hours, and then poured into 400 ml of ice water. The resulting crystals are collected by filtration, thoroughly washed with water and then dried to obtain 9.8 g of desired 4(2,3-dichlorophenylcarbamoyl)phenyl acetic acid. The yield was 91.3%, and the melting point of this compound was from 184° to 185.5° C.

reactant | 4-(2,3-dichlorophenylcarbamoyl)phenylacetamide | 10.7 g | ClC1=C(C=CC=C1Cl)NC(=O)C1=CC=C(C=C1)CC(=O)N | C15H12Cl2N2O2
reactant | sulfuric acid | 17.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 3.2 g | N(=O)[O-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 17.5 ml | O | H2O
product | 4(2,3-dichlorophenylcarbamoyl)phenyl acetic acid | 9.8 g, yield was 91.3% | ClC1=C(C=CC=C1Cl)NC(=O)C1=CC=C(C=C1)CC(=O)O | C15H11Cl2NO3
